US07230022B2
Part F: Preparation of (4aSR,8SR,8aSR)-2-[3-(4-fluorophenyl)propanoyl]decahydroisoquinoline-8-carboxylic acid
A solution of ethyl (4aSR,8SR,8aSR)-2-[3-(4-fluorophenyl)propanoyl]decahydroisoquinoline-8-carboxylate (385 mg, 1.07 mmol) in tetrahydrofuran (5 mL) was added to a solution of potassium hydroxide (168 mg, 3.0 mmol) in water (5 mL). The resulting solution was stirred at room temperature for 16 hours. Additional potassium hydroxide (385 mg, 1.07 mmol) dissolved in methanol (5 mL) was added, and stirring was continued for an additional 5 hours. The mixture was treated with concentrated aqueous hydrochloric acid until the pH was about 1. The mixture was concentrated to a volume of about 5 mL and extracted three times with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated to provide a white solid (350 mg, 98%). 1H NMR (300 MHz, CDCl3) δ7.11 (m, 2H), 6.90 (m, 2H), 4.66 (m, 1H), 3.80 (m, 1H), 2.85 (m, 2H), 2.7-2.4 (m, 3H), 2.1-1.9 (m, 2H), 1.80 (m, 1H), 1.7-0.9 (m, 9H). Mass spec (ES+) m/z 334.2 (M+H+, 100%).

reactant | ethyl (4aSR,8SR,8aSR)-2-[3-(4-fluorophenyl)propanoyl]decahydroisoquinoline-8-carboxylate | 1.07 mmol, 385 mg | FC1=CC=C(C=C1)CCC(=O)N1CC2C(CCCC2CC1)C(=O)OCC | C21H28FNO3
reactant | potassium hydroxide | 3.0 mmol, 168 mg | [OH-].[K+]
reactant | potassium hydroxide | 1.07 mmol, 385 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | (4aSR,8SR,8aSR)-2-[3-(4-fluorophenyl)propanoyl]decahydroisoquinoline-8-carboxylic acid | 350 mg, 98% | FC1=CC=C(C=C1)CCC(=O)N1CC2C(CCCC2CC1)C(=O)O | C19H24FNO3
